US06964961B2
C. [7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-piperazin-1-yl-methanone
The title compound was prepared by treating 4-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester with HCl gas as described in Example 64B. MS: 392 (MH+); HPLC Rf: 3.51 min.; HPLC purity: 93%.

reactant | 4-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C26H29N5O3S
reactant | HCl | Cl | ClH
product | [7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-piperazin-1-yl-methanone | CC=1NC2=CC=C(C=C2C1)NC1=C2C(=NC=C1)C=C(S2)C(=O)N2CCNCC2 | C21H21N5OS
